### PR TITLE
Remove hypothesis of faithfulness; simplify

### PR DESCRIPTION
**Pull request by tamaravonglehn**
A first attempt at #543 .

### CODE REVIEW

File: UniMath/CategoryTheory/precomp_fully_faithful.v [hunk 1]
```diff
@@ -96,280 +86,150 @@ Section full.
...
 Lemma is_nat_trans_pdelta :
      is_nat_trans F G pdelta.
 Proof.
   intros b b' f.
+  apply (p b (hProppair _ (hsC _ _ _ _) )).
+  intro t; induction t as [a h]; simpl.
+  apply (p b' (hProppair _ (hsC _ _ _ _) )).
+  intro t; induction t as [a' h']; simpl.
+  unfold pdelta.
+  rewrite (pr2 ((pr1 (iscontr_aux_space b))) a h).
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/precomp_fully_faithful.v]: Here it would be good to isolate the equation before rewriting with it, i.e., projecting it out or something.
